US07777047B2
N-{2-[8-(cyanomethyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
A mixture of N-Methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (100 mg), 3-(chloromethyl)-1,2,4-oxadiazole (35 mg), potassium carbonate (44 mg) and N,N-dimethylformamide (5 mL) was stirred at 50° C. for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was purified by preparative HPLC to give the title compound (55 mg, yield 47%) as white crystals. melting point 211° C.

reactant | N-Methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 100 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | 3-(chloromethyl)-1,2,4-oxadiazole | 35 mg | ClCC1=NOC=N1 | C3H3ClN2O
reactant | potassium carbonate | 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-{2-[8-(cyanomethyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 55 mg, yield 47% | C(#N)CN1CCC2(CN=C(S2)C=2NC3=C(C=CC=C3C2)N(S(=O)(=O)C=2SC=CC2)C)CC1 | C22H23N5O2S3
